US09227923B2
N-[2,6-Dichloro-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)phenyl]-4-nitro-benzamide (3.2 g) and nickel (II) chloride hexahydrate (3.33 g) were dissolved in methanol (30 ml). To the reaction solution, NaBH4 (0.80 g) was added slowly under ice cooling, and the mixture was stirred for 1 hour while increasing the temperature to room temperature. Aqueous ammonia (about 5 ml) was added to the reaction solution under stirring, and then diluted with ethyl acetate and water. The organic phase was separated and the aqueous layer was extracted with ethyl acetate. The organic phases were combined, and then dried over magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off under reduced pressure to obtain a crude product, which was then separated and purified by column chromatography to give 4-amino-N-[2,6-dichloro-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)phenyl]-benzamide (2.89 g, yield 96%).

reactant | N-[2,6-Dichloro-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)phenyl]-4-nitro-benzamide | 3.2 g | ClC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Cl)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H7Cl2F7N2O3
reactant | NaBH4 | 0.80 g | [BH4-].[Na+]
reactant | ammonia | about 5 ml | N | H3N
solvent | methanol | 30 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | nickel (II) chloride hexahydrate | 3.33 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 4-amino-N-[2,6-dichloro-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)phenyl]-benzamide | 2.89 g, yield 96% | NC1=CC=C(C(=O)NC2=C(C=C(C=C2Cl)C(C(F)(F)F)(C(F)(F)F)F)Cl)C=C1 | C16H9Cl2F7N2O
